US07176205B2
d) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-N-methyl-isobutyramide
To a solution of 0.19 g (0.81 mmol) (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine in 8 ml THF were added 0.52 ml (0.83 mmol) of a 1.6 M solution of n-butyllithium in hexanes at −78° C. After 15 min 0.28 g (0.88 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added. The reaction mixture was allowed to warm to room temperature during 30 min. After addition of a 0.2 M aqueous sodium hydroxide solution the mixture was extracted with three portions of dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated. Flash chromatography gave 0.30 g (73%) of the title compound.

reactant | (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine | 0.81 mmol, 0.19 g | ClC1=CC(=C(C=N1)NC)C=1C(=NC=CC1)C | C12H12ClN3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 0.88 mmol, 0.28 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | sodium hydroxide | 0.2 M | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-N-methyl-isobutyramide | 0.30 g, 73% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC=CC1)C)Cl)(C)C)(F)F | C24H20ClF6N3O
